* Schematics Netlist *



R_R2         $N_0002 $N_0001  10  
I_I1         $N_0003 $N_0004 DC 5A  
D_D6         $N_0004 $N_0003 Dbreak-X 
M_M5         $N_0003 $N_0004 $N_0004 $N_0004 IRF840
M_M6         $N_0004 $N_0002 0 0 IRF840
V_V2         $N_0001 0  
+PULSE 0 15 0 50n 50n 9u 20u
V_V1         $N_0003 0 100
