* Schematics Netlist *



D_D6         $N_0001 $N_0002 Dbreak-X 
M_M5         $N_0002 $N_0001 $N_0001 $N_0001 IRF840
M_M6         $N_0001 $N_0003 0 0 IRF840
V_V1         $N_0002 0 100
I_I1         $N_0002 $N_0001 DC 5A  
V_V2         $N_0004 0  
+PULSE 0 15 0 50n 50n 9u 20u
R_R2         $N_0003 $N_0004  10  
